US08466186B2
(d) N-{4-Trifluoromethyl-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-3,3,3-trifluoro-2-methyl-propanamide
The title compound was prepared in analogy to the procedure in Example 94, step (c) using 4-trifluoromethyl-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine (110 mg; 0.22 mmol), 3,3,3-trifluoro-2-methylpropanoic acid (31 mg; 0.22 mmol), HBTU (83 mg; 0.22 mmol), TEA (45 mg; 0.44 mmol), DMF (2 mL).

reactant | 4-trifluoromethyl-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine | 0.22 mmol, 110 mg | FC(C1=C(C=C(CN)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)(F)F | C22H22ClF6N5
reactant | 3,3,3-trifluoro-2-methylpropanoic acid | 0.22 mmol, 31 mg | FC(C(C(=O)O)C)(F)F | C4H5F3O2
reactant | HBTU | 0.22 mmol, 83 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-{4-Trifluoromethyl-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-3,3,3-trifluoro-2-methyl-propanamide | FC(C1=C(C=C(CNC(C(C(F)(F)F)C)=O)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)(F)F | C26H25ClF9N5O
